US06916345B2
A) Synthesis of: 4-(6-methoxy-3-nitropyrid-2-yl)morpholine
5 g (0.0265 mol) of the product 2-chloro-3-nitro-6-methoxypyridine, 50 ml of ethanol and 4.62 ml (0.053 mol) of morpholine were placed in a fully equipped round-bottomed flask.

reactant | 2-chloro-3-nitro-6-methoxypyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | morpholine | 0.053 mol, 4.62 ml | N1CCOCC1 | C4H9NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(6-methoxy-3-nitropyrid-2-yl)morpholine | COC1=CC=C(C(=N1)N1CCOCC1)[N+](=O)[O-] | C10H13N3O4
